US04677129
(b) 3-n-butyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1 ]heptane-2.4-dione
0.36 g of sodium hydride is added to a solution of 2.46 g of 1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione in 25 ml of N,N-dimethylformamide and the whole is stirred at room temperature for 30 minutes. 1.6 ml of n-butyl bromide dissolved in 10 ml of N,N-dimethylformamide are then added dropwise thereto. When the reaction is complete, the reaction mixture is freed of N,N-dimethylformamide. The residue is partitioned between ethyl acetate and water, and the organic phase is dried over magnesium sulphate and, after concentration by evaporation and subsequent recrystallisation from ethyl acetate/petroleum ether, the product is obtained having a melting point of 120°-123°.

reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | 1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | 2.46 g | [N+](=O)([O-])C1=CC=C(C=C1)C12C(NC(C(C1)C2)=O)=O | C12H10N2O4
reactant | n-butyl bromide | 1.6 ml | C(CCC)Br | C4H9Br
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-n-butyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1 ]heptane-2.4-dione | C(CCC)N1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C16H18N2O4
